US04206225
5,6,6a,7,8,9,10,10a-Octahydro-2-(4-morpholinobutyryloxy)-10-hydroxymethyl-6,6-dimethyl-3-(1-methyl-4-phenylbutyl)benzo[c]quinoline Hydrochloride
To a 25° C. solution of 5,6,6a,7,8,9,10,10a-octahydro-2-hydroxy-10-hydroxymethyl-6,6-dimethyl-3-(1-methyl-4-phenylbutyl)benzo[c]quinoline (626 mg., 1.5 mmole) in dry methylene chloride (25 ml.) is added 4-morpholinobutyric acid hydrochloride (0.315 g., 1.5 mmole) and the mixture stirred at room temperature under a nitrogen atmosphere. A 0.1 M solution of dicyclohexylcarbodiimide in methylene chloride (12.5 ml., 1.5 mmole) is added dropwise and the mixture stirred for 6 hours. It is then cooled in ice, filtered and evaporated to give the title product which is purified as the free base by column chromatography on silica gel.

reactant | 5,6,6a,7,8,9,10,10a-octahydro-2-hydroxy-10-hydroxymethyl-6,6-dimethyl-3-(1-methyl-4-phenylbutyl)benzo[c]quinoline | 1.5 mmole, 626 mg | OC=1C=C2C3C(C(NC2=CC1C(CCCC1=CC=CC=C1)C)(C)C)CCCC3CO | C27H37NO2
reactant | 4-morpholinobutyric acid hydrochloride | 1.5 mmole, 0.315 g | Cl.O1CCN(CC1)CCCC(=O)O
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1.5 mmole, 12.5 ml | C(Cl)Cl | CH2Cl2
product | 5,6,6a,7,8,9,10,10a-Octahydro-2-(4-morpholinobutyryloxy)-10-hydroxymethyl-6,6-dimethyl-3-(1-methyl-4-phenylbutyl)benzo[c]quinoline Hydrochloride | Cl.O1CCN(CC1)CCCC(=O)OC=1C=C2C3C(C(NC2=CC1C(CCCC1=CC=CC=C1)C)(C)C)CCCC3CO | InChI=1S/C35H50N2O4.ClH/c1-25(10-7-13-26-11-5-4-6-12-26)28-22-31-29(34-27(24-38)14-8-15-30(34)35(2,3)36-31)23-32(28)41-33(39)16-9-17-37-18-20-40-21-19-37;/h4-6,11-12,22-23,25,27,30,34,36,38H,7-10,13-21,24H2,1-3H3;1H
